US06521643B1
To a solution of N,N′-bis (tert-butoxycarbonyl)-N″-(3-(4-ethoxypyridin-2-yl)phenyl)guanidine (200 mg) in dichioromethane (2 ml) was added a solution of hydrogen chloride in 1,4-dioxane (4N, 4 ml), and the mixture was stirred at room temperature for 16 hours. The solvent was evaporated under reduced pressure. To the residue was added 10% ethanol in ethyl acetate (50 ml), and the precipitate was collected by filtration and dried under reduced pressure to give 3-(4-ethoxypyridin-2-yl)phenylguanidine dihydrochloride (126 mg).

reactant | N,N′-bis (tert-butoxycarbonyl)-N″-(3-(4-ethoxypyridin-2-yl)phenyl)guanidine | 200 mg | C(C)(C)(C)OC(=O)NC(=NC1=CC(=CC=C1)C1=NC=CC(=C1)OCC)NC(=O)OC(C)(C)C | C24H32N4O5
reactant | hydrogen chloride | Cl | ClH
solvent | dichioromethane | 2 ml | ClCCl | CH2Cl2
solvent | 1,4-dioxane | 4N, 4 ml | O1CCOCC1 | C4H8O2
product | 3-(4-ethoxypyridin-2-yl)phenylguanidine dihydrochloride | 126 mg | Cl.Cl.C(C)OC1=CC(=NC=C1)C=1C=C(C=CC1)NC(=N)N | InChI=1S/C14H16N4O.2ClH/c1-2-19-12-6-7-17-13(9-12)10-4-3-5-11(8-10)18-14(15)16;;/h3-9H,2H2,1H3,(H4,15,16,18);2*1H
